US06972340B2
methyl 2,6-dihydroxy-4-pentylbenzoate
A solution of 2,6-dihydroxy-4-pentylbenzoic acid (2.0 g, 8.9 mM) in ether was treated with a 0.3 M solution of diazomethane in ether (30 mL) and stirred for 10 minutes. Nitrogen was bubbled through the solution for 10 minutes and then glacial acetic acid (4 drops). The reaction was concentrated under reduced pressure and purified by chromatography (5% ethyl acetate in hexanes) to give the desired product. MS ESI(−)) m/e 237 (M−H)+; 1H NMR (300 MHz, CDCl3) δ 9.62 (bs, 2H), 6.33 (s, 2H), 4.06 (s, 3H), 2.50 (t, 2H), 1.64-1.55 (m, 2H), 1.34-1.27 (m, 4H), 0.92-0.87 (m, 3H).

reactant | 2,6-dihydroxy-4-pentylbenzoic acid | 8.9 mM, 2.0 g | OC1=C(C(=O)O)C(=CC(=C1)CCCCC)O | C12H16O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
product | methyl 2,6-dihydroxy-4-pentylbenzoate | OC1=C(C(=O)OC)C(=CC(=C1)CCCCC)O | C13H18O4
